US07091228B2
To a solution of methyl trans-2-[(4′-amino-1,1′-biphenyl-4-yl)carbonyl]cyclopentane carboxylate (100 mg, 0.31 mmol) in dichloroethane (3 mL), 5-fluoro-2-(methylsulfonyl)-1,3-benzoxazole (80 mg, 0.37 mmol) was added and the mixture was heated at 85° C. overnight. The solvent was removed by rotary evaporation, and the residue was redissolved in DMF (5 mL). A solution of 1 N aqueous NaOH (0.93 mL, 0.93 mmol) was added and the mixture was heated at 65° C. overnight. A solution of 1 N aqueous HCl (0.31 mL, 0.31 mmol) and methanol (5 mL) were added to the reaction mixture, and the crude product was purified by preparative reverse-phase HPLC (water/acetonitrile gradient, containing 0.1% TFA) to afford 2-({4′-[(5-fluoro-1,3-benzoxazol-2-yl)amino]-1,1′-biphenyl-4-yl}carbonyl)cyclopentanecarboxylic acid as a white solid (43.7 mg, 31.4%). 1H NMR (300 MHz, DMSO-d6) δ 8.05 (d, 2 H), 7.90–7.80 (m, 6 H), 7.50 (m, 1 H), 7.30 (m, 1 H), 6.95 (m, 1 H), 4.05 (m, 1 H), 3.20 (m, 1 H), 2.20 (m, 1 H), 1.95 (m, 1 H), 1.80–1.60 (m, 4 H); LC-MS ret. time 3.66 min (method 2), m/z 445.1 (MH+).

reactant | methyl trans-2-[(4′-amino-1,1′-biphenyl-4-yl)carbonyl]cyclopentane carboxylate | 0.31 mmol, 100 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)[C@H]1[C@@H](CCC1)C(=O)OC | C20H21NO3
reactant | 5-fluoro-2-(methylsulfonyl)-1,3-benzoxazole | 0.37 mmol, 80 mg | FC=1C=CC2=C(N=C(O2)S(=O)(=O)C)C1 | C8H6FNO3S
reactant | NaOH | 0.93 mmol, 1 N, 0.93 mL | [OH-].[Na+]
reactant | HCl | 0.31 mmol, 1 N, 0.31 mL | Cl | ClH
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
solvent | methanol | 5 mL | CO | CH4O
product | 2-({4′-[(5-fluoro-1,3-benzoxazol-2-yl)amino]-1,1′-biphenyl-4-yl}carbonyl)cyclopentanecarboxylic acid | 43.7 mg, 31.4% | FC=1C=CC2=C(N=C(O2)NC2=CC=C(C=C2)C2=CC=C(C=C2)C(=O)C2C(CCC2)C(=O)O)C1 | C26H21FN2O4
